US09315467B2
Preparation of 3-(6-Phenyl-pyridin-2-yl)-benzoic acid (Compound 24)
Part C. Methyl 3-(6-phenyl-pyridin-2-yl)-benzoate is saponified using sodium hydroxide, and workup afforded the acid title product. MS (ES+): m/e 276 (100).

reactant | Methyl 3-(6-phenyl-pyridin-2-yl)-benzoate | C1(=CC=CC=C1)C1=CC=CC(=N1)C=1C=C(C(=O)OC)C=CC1 | C19H15NO2
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-(6-Phenyl-pyridin-2-yl)-benzoic acid | C1(=CC=CC=C1)C1=CC=CC(=N1)C=1C=C(C(=O)O)C=CC1 | C18H13NO2
